US08497381B2
Step 2: [6-Methoxy-2′-(2-oxo-benzooxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
Prepared according to the procedure described in Example 25, Step 5, using the following starting materials: {2′-[(2-hydroxy-phenylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester and phosgene (1.9M in toluene).

reactant | {2′-[(2-hydroxy-phenylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNC1=C(C=CC=C1)O)=O | C24H22F3NO4
reactant | phosgene | 1.9M | C(=O)(Cl)Cl | CCl2O
product | [6-Methoxy-2′-(2-oxo-benzooxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(OC2=C1C=CC=C2)=O)=O | C25H20F3NO5
